US07119109B2
b) 4-Azido-1,1,1-trifluoro-2-butanol
A solution of 4-toluenesulfonic acid 4,4,4-trifluoro-3-hydroxybutyl ester (1.30 g, 4.36 mmol) in DMSO (7 mL) was treated with sodium azide (0.306 g, 4.71 mmol) at is ambient temperature and then heated at 50° C. for 23 h. The mixture was diluted with cold water and extracted with diethyl ether. The combined organic extracts were washed (brine), dried, and evaporated without heat to give the product as a yellow oil (0.737 g, 100%).

reactant | 4-toluenesulfonic acid 4,4,4-trifluoro-3-hydroxybutyl ester | 4.36 mmol, 1.30 g | FC(C(CCOS(=O)(=O)C1=CC=C(C=C1)C)O)(F)F | C11H13F3O4S
reactant | sodium azide | 4.71 mmol, 0.306 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Azido-1,1,1-trifluoro-2-butanol | 0.737 g, 100% | N(=[N+]=[N-])CCC(C(F)(F)F)O | C4H6F3N3O
